US05753663
To a solution of 3,4,5-trimethoxyaniline (6 g) in tetrahydrofuran (125 ml) at room temperature was added potassium carbonate (5.42 g) followed by ethyl chloroformate (3.55 g). The mixture was stirred at room temperature for 48 hours, then solvent removed under reduced pressure. The residue was stirred with diethyl ether and filtered. The solid material remaining on the filter was extracted with acetone, the organic extracts combined, and solvent removed from the combined extracts under reduced pressure, to give a residue of ethyl 3,4,5-trimethoxyphenylcarbamate (6.05 g)

reactant | 3,4,5-trimethoxyaniline | 6 g | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
reactant | potassium carbonate | 5.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chloroformate | 3.55 g | ClC(=O)OCC | C3H5ClO2
solvent | tetrahydrofuran | 125 ml | O1CCCC1 | C4H8O
product | ethyl 3,4,5-trimethoxyphenylcarbamate | 6.05 g | COC=1C=C(C=C(C1OC)OC)NC(OCC)=O | C12H17NO5
